US07910591B2
3-{4-[4-(5-Chloro-2-methoxyphenyl)-piperazine-1-yl]-butyl}-1,3-dihydro-2H-indol-2-one Monohydrochloride
The title compound is prepared according to process B by applying processing method 2 starting from 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(5-chloro-2-methoxyphenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC | C14H18ClNO
reactant | 1-(5-chloro-2-methoxyphenyl)-piperazine | ClC=1C=CC(=C(C1)N1CCNCC1)OC | C11H15ClN2O
product | 3-{4-[4-(5-Chloro-2-methoxyphenyl)-piperazine-1-yl]-butyl}-1,3-dihydro-2H-indol-2-one Monohydrochloride | Cl.ClC=1C=CC(=C(C1)N1CCN(CC1)CCCCC1C(NC2=CC=CC=C12)=O)OC | InChI=1S/C23H28ClN3O2.ClH/c1-29-22-10-9-17(24)16-21(22)27-14-12-26(13-15-27)11-5-4-7-19-18-6-2-3-8-20(18)25-23(19)28;/h2-3,6,8-10,16,19H,4-5,7,11-15H2,1H3,(H,25,28);1H
